US06002008
4-(Phenylamino)-6,7-diethoxy-3-quinolinecarbonitrile
In the manner of Example 105 reaction of 4-chloro-6,7-diethoxy-3-quinolinecarbonitrile with aniline gave the title compound as a tan solid, mp 168-170° C.

reactant | 4-chloro-6,7-diethoxy-3-quinolinecarbonitrile | ClC1=C(C=NC2=CC(=C(C=C12)OCC)OCC)C#N | C14H13ClN2O2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | 4-(Phenylamino)-6,7-diethoxy-3-quinolinecarbonitrile | C1(=CC=CC=C1)NC1=C(C=NC2=CC(=C(C=C12)OCC)OCC)C#N | C20H19N3O2
